US07939528B2
Step 2: N-[4-[(4-formylphenyl)oxy]-2-nitro-6-(trifluoromethyl)phenyl]acetamide Preparation
A solution of N-[4-fluoro-2-nitro-6-(trifluoromethyl)phenyl]acetamide (1.5 g, 5.63 mmol), Cs2CO3 (4.59 g, 14.09 mmol), and 4-hydroxybenzaldehyde (0.757 g, 6.20 mmol) in dimethylsulfoxide (10 mL) was heated to 80 degrees Centigrade for 2 h and then cooled. H2O was added and the organics extracted using ethyl acetate (2×50 mL). The combined organics were then washed 1× brine and then dried (Na2SO4), filtered and concentrated. Chromatography on silica gel, using 2:1 hexanes/ethyl acetate eluted N-[4-[(4-formylphenyl)oxy]-2-nitro-6-(trifluoromethyl)phenyl]acetamide as an orange solid. (0.922 g; 44% yield).

reactant | N-[4-fluoro-2-nitro-6-(trifluoromethyl)phenyl]acetamide | 5.63 mmol, 1.5 g | FC1=CC(=C(C(=C1)C(F)(F)F)NC(C)=O)[N+](=O)[O-] | C9H6F4N2O3
reactant | Cs2CO3 | 14.09 mmol, 4.59 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-hydroxybenzaldehyde | 6.20 mmol, 0.757 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | H2O | O | H2O
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | N-[4-[(4-formylphenyl)oxy]-2-nitro-6-(trifluoromethyl)phenyl]acetamide | 44% yield | C(=O)C1=CC=C(C=C1)OC1=CC(=C(C(=C1)C(F)(F)F)NC(C)=O)[N+](=O)[O-] | C16H11F3N2O5
